US08557983B2
2-oxaspiro[3.5]nonan-7-ylmethanol
To a 25 mL round-bottomed flask was added EXAMPLE 440E (568 mg) and tetrahydrofuran (4.11 mL). 9-Borabicyclo[3.3.1]nonane (0.5 M in tetrahydrofuran, 24.7 mL) was added and the reaction was allowed to stir for 2 hours at room temperature. Ethanol (11 mL) was added followed by NaOH (5M, 4.11 mL) and then hydrogen peroxide (2.1 mL) was added. The reaction was heated at 50° C. for 2 hours. Most of the ethanol and tetrahydrofuran was removed by rotary evaporation, and the crude material was diluted with water and ethyl acetate. The aqueous layer was extracted with ethyl acetate (3×) and the combined organics were dried (Na2SO4), filtered and concentrated by rotary evaporation. The residue was purified by regular phase flash column chromatography (Analogix, 0-70% hexanes/ethyl acetate).

reactant | tetrahydrofuran | 4.11 mL | O1CCCC1 | C4H8O
reactant | 9-Borabicyclo[3.3.1]nonane | 0.5 M, 24.7 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | NaOH | 5M, 4.11 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 2.1 mL | OO | H2O2
solvent | Ethanol | 11 mL | C(C)O | C2H6O
product | 2-oxaspiro[3.5]nonan-7-ylmethanol | C1OCC12CCC(CC2)CO | C9H16O2
